US08563776B2
A mixture of 4-chloro-4′-hydroxybenzophenone (116 g, 0.500 mole) and sodium hydroxide (120 g, 3.00 mole) in acetone (1 L) was heated to reflux for 2 hours. The heating was stopped and the heating source was removed. A mixture of chloroform (179 g, 1.50 mole) in acetone (300 mL) was added drop-wise. The reaction mixture was stirred overnight without heating. The mixture was heated to reflux for 8 hours and then allowed to cool to room temperature. The precipitate was removed by filtration and washed with acetone (100 mL). The filtrate was concentrated under reduced pressure to give a brown oil. Water (200 mL) was added to the brown oil and was acidified (to pH=1) with IN hydrochloric acid. The precipitate, which formed was filtered and dried under high vacuum. The remaining yellow solid (268 g) was recrystallized from toluene in 4 batches (400 mL toluene each). After filtration and drying under high vacuum, the experiment produced fenofibric acid (116 g, 73% yield) as a light yellow solid.

reactant | 4-chloro-4′-hydroxybenzophenone | 0.500 mole, 116 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H9ClO2
reactant | sodium hydroxide | 3.00 mole, 120 g | [OH-].[Na+]
reactant | chloroform | 1.50 mole, 179 g | C(Cl)(Cl)Cl | CHCl3
reactant | Water | 200 mL | O | H2O
solvent | acetone | 1 L | CC(=O)C | C3H6O
solvent | acetone | 300 mL | CC(=O)C | C3H6O
solvent | hydrochloric acid | Cl | ClH
product | fenofibric acid | 116 g, 73% yield | CC(C)(C(=O)O)OC=1C=CC(=CC1)C(=O)C=2C=CC(=CC2)Cl | C17H15ClO4
